US06437125B1
Preparation of 2-Amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine Hydrochloride
To a stirred solution of 2,2-dimethyl-5-[2-(2-aminopurin-9-yl)ethyl]-1,3-dioxane (1 g) in a mixture of tetrahydrofuran (20 ml) and methanol (6 ml ) at room temperature was added concentrated hydrochloric acid (0.32 ml). The resulting mixture was stirred for 2 hours during which time a solid crystallised. The solid was collected by filtration, washed with tetrahydrofuran (2 ml ) and dried under a flow of air to give the desired product as the hydrochloride salt (800 mg, 81% yield).

reactant | 2,2-dimethyl-5-[2-(2-aminopurin-9-yl)ethyl]-1,3-dioxane | 1 g | CC1(OCC(CO1)CCN1C2=NC(=NC=C2N=C1)N)C | C13H19N5O2
reactant | hydrochloric acid | 0.32 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
product | 2-Amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine Hydrochloride | Cl.NC1=NC=C2N=CN(C2=N1)CCC(CO)CO | InChI=1S/C10H15N5O2.ClH/c11-10-12-3-8-9(14-10)15(6-13-8)2-1-7(4-16)5-17;/h3,6-7,16-17H,1-2,4-5H2,(H2,11,12,14);1H
